US04220798
(c) 9-Keto-15-hydroxy-16,16,19-trimethyl-prost-18-enoic acid, methyl ester
To the solution of 2.4 g of 9-ethylenedioxy-15-keto-16,16,19-trimethyl-prost-18-enoic acid, methyl ester in methanol (20 ml.) 0.4 g of sodium borohydride are gradually added while the temperature is kept under 35° C. The mixture is stirred for 30 minutes, then diluted with water (150 ml.) and extracted with ethyl acetate (3×70 ml.). The organic layer is washed with water to neutrality, dried over sodium sulphate and the solvent is removed in vacuo. The oily residue (2.2 g) is suspended in 65% acetic acid (30 ml.) and stirred at room temperature for 60 minutes. The obtained solution is diluted with water (100 ml.) and extracted with diethyl ether (3×70 ml). The organic layer is washed with aqueous saturated NaHCO3 solution to neutrality, dried over sodium sulphate and the solvent is evaporated. From the oily residue (1.8 g), by chromatography on silica (200 g) and elution with benzene/ethyl acetate (4:1), 0.48 g of 9 -keto-15β-hydroxy-16,16,19-trimethyl-prost-18-enoic acid, methyl ester, 0.40 g of 9-keto-15α-hydroxy-16,16,19-trimethyl-prost-18-enoic acid, methyl ester and 0.48 g of a mixture of 15α and 15β are obtained.

reactant | 9-ethylenedioxy-15-keto-16,16,19-trimethyl-prost-18-enoic acid, methyl ester | 2.4 g | C1OC2[C@H](CCCCCCC(=O)OC)[C@H](CC2OC1)CCC(C(CC=C(C)C)(C)C)=O | C26H44O5
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 20 ml, 0.4 g | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 9-Keto-15-hydroxy-16,16,19-trimethyl-prost-18-enoic acid, methyl ester | O=C1[C@H](CCCCCCC(=O)OC)[C@H](CC1)CCC(C(CC=C(C)C)(C)C)O | C24H42O4
